US09029399B2
Preparation of 1-(4-cyclopropylpyridin-3-yl)-3-(6-cyclopropylpyrimidin-4-yl)imidazolidin-2-one (38A)
Using analogous reagents and reaction conditions as described in Example 1 above, 1-(6-chloropyrimidin-4-yl)-3-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one (I-38a: 140 mg, 0.44 mmol) was reacted with cyclopropyl boronic acid (46 mg, 0.533 mmol), Pd(PPh3)4 (26 mg, 0.02 mmol), potassium carbonate (123 mg, 0.888 mmol) and xylene (10 mL) in seal tube at 125° C. for 14 hours. Purification by column chromatography on silica gel (1% methanol in chloroform) afforded 55 mg of the product (38.73% yield).

reactant | 1-(6-chloropyrimidin-4-yl)-3-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one | 0.44 mmol, 140 mg | ClC1=CC(=NC=N1)N1C(N(CC1)C=1C=NC=CC1C1CC1)=O | C15H14ClN5O
reactant | cyclopropyl boronic acid | 0.533 mmol, 46 mg | C1(CC1)B(O)O | C3H7BO2
reactant | potassium carbonate | 0.888 mmol, 123 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | Pd(PPh3)4 | 0.02 mmol, 26 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | xylene | 10 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 1-(4-cyclopropylpyridin-3-yl)-3-(6-cyclopropylpyrimidin-4-yl)imidazolidin-2-one | 55 mg, 38.73% yield | C1(CC1)C1=C(C=NC=C1)N1C(N(CC1)C1=NC=NC(=C1)C1CC1)=O | C18H19N5O
